US06809199B2
STEP F: Methyl 5-bromo-1-(2,6-dichlorophenyl)-2-oxo-1,2-dihydroquinoline-7-carboxylate
Methyl 3,5-dibromo-4-{(1Z)-3-[(2,6-dichlorophenyl)amino]-3-oxoprop-1-enyl}benzoate (1.25 g)(contaminated with 20% of the E isomer) was dissolved in dimethylformamide(36 mL) and the solution degassed with argon. Copper (I) iodide (340 mg) and dry potassium carbonate (468 mg) were added and the mixture heated to 80° C. for 30 min. The reaction mixture was poured into 5% ammonium hydroxide solution and extracted into ethyl acetate, dried over MgSO4 and concentrated. The residue was purified by silica gel chromatography eluting with 80% hexane: 20% ethyl acetate to give the title compound.

reactant | Methyl 3,5-dibromo-4-{(1Z)-3-[(2,6-dichlorophenyl)amino]-3-oxoprop-1-enyl}benzoate | 1.25 g | BrC=1C=C(C(=O)OC)C=C(C1\C=C/C(=O)NC1=C(C=CC=C1Cl)Cl)Br | C17H11Br2Cl2NO3
solvent | dimethylformamide | 36 mL | CN(C=O)C | C3H7NO
product | Methyl 5-bromo-1-(2,6-dichlorophenyl)-2-oxo-1,2-dihydroquinoline-7-carboxylate | BrC1=C2C=CC(N(C2=CC(=C1)C(=O)OC)C1=C(C=CC=C1Cl)Cl)=O | C17H10BrCl2NO3
